Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
hypotension
 
Major Surgical or Invasive Procedure:
s/p central line placement x 2 (HD catheter)

 
History of Present Illness:
Mr. ___ is a ___ yo with met renal cell carc admitted on 
___ for week 2 of high dose ___ therapy.  His last dose was 
complicated by shock requiring dopamine and brief atrial 
fibrillation, spontaneously reverting back when dopamine was 
changed to neo.  His current course was given from ___ to ___ 
and has been complicated by nausea/vomiting, encephalopathy, 
diarrhea, rigors, and desquamation, but also by hypotension ___ 
the ___ systolic requiring neo for 90 min on ___ and restarted 
again on ___, ARF with decreasing UOP (355 total cc's on ___, 
none on ___, + ~ 14L LOC but without detailed recording of his 
UOP), and progressive metabolic acidosis despite bicarb 
infusion.  Vancomycin was started empirically ___ the setting of 
severe dermatitis, and he has been on prophylactic cipro 
throughout his stay.  His last dose 9am on ___.  His Cr has 
risen progressively from 1.9 on admission to 6.6 on the evening 
of transfer.  Because of his progressive renal failure, dopamine 
was added to improve renal perfusion.  He was also transiently 
___ afib.  His Tmax during his stay has been 99.5 on ___ with no 
other elevated temps, though he has been intermittently around 
___.  
.  
REVIEW OF SYSTEMS:
(+)ve: as per HPI
(-)ve: chest pain, palpitations, rhinorrhea, nasal congestion, 
cough, sputum production, hemoptysis, dyspnea, orthopnea, 
paroxysmal nocturnal dyspnea, constipation, hematochezia, 
melena, dysuria, urinary frequency, urinary urgency, focal 
numbness, focal weakness
 
Past Medical History:
metastatic renal cell carcinoma, s/p nephrectomy.  metastatic to 
lung, adrenal gland, brain.  s/p cyberknife ___.  
Bleeding ulcers
HTN
Hyperlipidemia
GERD
Diverticulosis
Migraines
___ esophagus
Anemia with folate deficiency
Appendectomy ___ ___
Hemorrhoidectomy ___
Back surgery ___ ___
Vasectomy
 
Social History:
___
Family History:
No history of any kidney cancer, but his mother
had ovarian cancer, no obvious signs of ___ lymphoma, who is
now healthy.

 
Physical Exam:
97.8  119  105/44  16  100%2L    
.  
PHYSICAL EXAM  
GENERAL: dry and desquamated
HEENT: Normocephalic, atraumatic. conjunctival erythema. No 
scleral icterus. PERRLA/EOMI but tracks slowly and incompletely. 
mucous membranes dry. OP clear. Neck Supple, No LAD, No 
thyromegaly.  
CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. ___ SEM ___ 
RUSB, rubs or ___. JVP=flat  
LUNGS: CTAB, good air movement biaterally anteriorly.  
ABDOMEN: hypoABS. Soft, NT, ND. No HSM  
EXTREMITIES: diffuse ___, 2+ dorsalis pedis/ posterior 
tibial pulses.  
SKIN: diffuse erythema and desquamation.  skin breakdown on 
grown and buttocks.  
NEURO: A&Ox3 though with difficulty with word finding. 
Appropriate. CN ___ intact. Preserved sensation throughout. ___ 
strength throughout. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately  
.  

 
Pertinent Results:
___ 09:49AM   ___ PTT-21.6* ___
___ 09:49AM   PLT COUNT-386#
___ 09:49AM   WBC-8.0 RBC-3.21* HGB-9.5* HCT-29.3* MCV-91 
MCH-29.6 MCHC-32.4 RDW-13.9
___ 09:49AM   ALBUMIN-3.4* CALCIUM-8.1* PHOSPHATE-3.2 
MAGNESIUM-2.0
___ 09:49AM   ALT(SGPT)-19 AST(SGOT)-21 LD(LDH)-169 
CK(CPK)-55 TOT BILI-0.6
___ 09:49AM   estGFR-Using this
___ 09:49AM   GLUCOSE-121* UREA N-17 CREAT-1.6*# SODIUM-144 
POTASSIUM-4.1 CHLORIDE-112* TOTAL CO2-25 ANION GAP-11

___ hand x-ray
 No previous images. The distal ___ and adjacent soft tissues 
are
essentially within normal limits on the images presented. No 
evidence of
erosions or dystrophic calcification.

___ CT abd/pelvis
1. Small bowel dilation without a clear transition point to 
suggest
mechanical obstruction. A 7 cm segment of small bowel wall 
thickening may
represent ischemia, infection, or inflammation. A repeated CT 
with i.v.
contrast may help evaluate the transit of oral contrast as well 
as the
mesenteric vasculature
2. Nasogastric tube just passed the gastroesophageal junction. 
Consider
reposition of nasogastric tube ___ the body of the stomach.
3. Metastatic disease, incompletely evaluated on this 
non-contrast study.
4. Bibasilar consolidative opacity concerning for pneumonia
5. Florid colonic diverticulosis without evidence of 
diverticulitis.
6. Decrease ___ size of right adrenal nodule suggestive of 
response to
therapy.
7. Extensive therosclerotis including coronary artery, abdominal 
aorta and
mesenteric vessels.

___
MRI head
1. Near-complete interval resolution of the enhancing lesion 
within the left anterior temporal lobe. Only minimal residual 
enhancement and FLAIR signal hyperintensity persist. No new 
enhancing lesions are identified.
 
TTE ___:  The left atrium is elongated. Left ventricular 
wall thickness, cavity size, and global systolic function are 
normal (LVEF>55%). Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The ascending aorta is mildly 
dilated. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The pulmonary artery 
systolic pressure could not be determined. There is a small 
pericardial effusion. There are no echocardiographic signs of 
tamponade.

TTE ___:  IMPRESSION: small pericardial effusion located 
mostly posterior to the left ventricle. There is minimal fluid 
anterior to the right ventricle. There is significant, 
accentuated respiratory variation ___ mitral/tricuspid valve 
inflows, which can be consistent with impaired ventricular 
filling but is more likely due to the irregularity of the heart 
rate. There is no frank tamponade seen. Normal biventricular 
function. No evidence of endocarditis although the valves are 
not well seen.

Compared with the prior study (images reviewed) of ___, 
this is a limited study. The valves are not well seen. The 
patient remains tachycardic but is now ___ atrial fibrillation. 
The size of the pericardial effusion is similar

Renal Ultrasound ___:
1. No hydronephrosis of the right kidney. Left kidney is 
surgically absent.

CXR ___: 
Lung volumes are lower, pulmonary vasculature more engorged, and 
distended 
mediastinal veins, unchanged, pointing toward volume overload or 
cardiac 
decompensation. A more focal opacity at the left lung base 
laterally would be better evaluated after hemodynamic status is 
optimized. It could be a small region of infection or 
infarction, pleural effusion, or transient atelectasis. 
  
Heart is top normal size, though increased since yesterday. 
Right subclavian line ends ___ the upper SVC. No pneumothorax.

CT head/chest non-con ___:

Slightly decreased vasogenic edema ___ region of known left 
temporal lobe metastasis.

1. Extensive new strikingly peripheral/subpleural ground-glass 
opacities with a slight upper lobe predominance is highly 
suggestive of drug-induced toxicity (likely ___ drug-induced 
eosinophilic lung disease). The more confluent lower lobe 
opacities are most suggestive of atelectasis, although infection 
cannot be excluded by imaging. 
  
2. Persistent findings suggestive of vascular engorgement with 
mild 
interstitial edema and small bilateral pleural effusions.  
 
3. No significant interval change to some of the previously 
noted metastatic lesions with many of the previously noted foci 
obscured by the new lung parenchymal opacities. Slight 
enlargement of prevascular lymph nodes can be seen ___ the 
setting of underlying pulmonary edema/elevated CVP.

CXR ___:
FINDINGS: As compared to the previous examination, a new central 
venous 
access line has been inserted over the left anterior jugular 
vein. The tip of the line projects over the upper SVC. There is 
no evidence of complication, notably no pneumothorax. 
  
The other monitoring and support devices are ___ unchanged 
position. 
  
Also unchanged is the size of the cardiac silhouette and the 
bilateral 
multifocal parenchymal opacities. The retrocardiac opacity could 
have 
minimally increased ___ the interval.

Lower Extremity U/S:
IMPRESSION: No evidence of DVT ___ either lower extremity. Left 
peroneal vein not well visualized.

BAL:  Bronchial lavage, right mid lobe: 
    
  NEGATIVE FOR MALIGNANT CELLS. 
    
  Bronchial epithelial cells, pulmonary macrophages, and 
  neutrophils; no viral inclusions noted.

CXR ___:
Tip of the endotracheal tube is no less than 48 mm from the 
carina, standard placement for patient of this size. Diffuse 
infiltrative pulmonary abnormality, more pronounced ___ the 
perihilar right lung has progressed could by virtue of asymmetry 
be pneumonia rather than pulmonary edema, although pulmonary 
vascular congestion is present. The heart is moderately 
enlarged.  Moderate right pleural effusion is stable. Right 
jugular line ends ___ the low SVC, left jugular line ___ the mid 
SVC, nasogastric tube passes below the diaphragm and out of 
view. Mediastinal widening ___ the right lower paratracheal 
station is due to a combination of adenopathy and venous 
engorgement.

Portable Abdomen ___:
FINDINGS: Supine AP abdomen radiograph demonstrates a 
nasogastric tube 
following a normal course and terminating ___ the distal stomach. 
There is no evidence of pneumoperitoneum. The bowel gas shadow 
appears unremarkable 

___ 7:08 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML

___ 4:21 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH

DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      Negative for Influenza B.

___ 4:22 am STOOL     CONSISTENCY: SOFT      Source: Stool. 


                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

___ 10:09 am BRONCHOALVEOLAR LAVAGE

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   RESPIRATORY CULTURE (Final ___: 
      ~1000/ML Commensal Respiratory Flora. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our ___ 
studies if
      pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): 
      No Virus isolated so far.

___ 10:09 am Rapid Respiratory Viral Screen & Culture

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture for further 
information.

___ 12:11 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.

___ 2:29 am BLOOD CULTURE      Source: Line-R SCTL -> MSRA 
(+)

___:  VRE blood culture from a-line

___ blood cultures pending

 

 

 
Brief Hospital Course:
#. Shock: Felt initially most likely due to sepsis and he was 
covered broadly with antibiotics.  Initially broadened 
antibiotics to vanc/levo/cefepime to cover above sources.  Goal 
CVP was ___, MAP > 65.  Initial central venous O2 saturation 
was 91%.  Patient was transferred from floor to ICU on dopamine 
and neo; dopamine was converted to levophed.  Pulsus was normal 
at 5.  Echocardiogram as above, largely unremarkable.  
Hypotension persisted and was thought to be septic ___ etiology 
with ___ distributive physiology contributing.  Shock was 
refractory to fluid boluses; received normal saline and water 
with bicarb given renal failure.  Blood cultures eventually grew 
out MRSA, successive cultures negative until ___, with 
___ culture growing vancomycin-resistant Enterococcus.  
During this time, patient was actually weaned off pressors.  The 
right subclavian triple lumen was removed and a right internal 
jugular triple lumen was placed.  Goals of care were discussed 
with family, who requested continued aggressive treatment.  
Linezolid replaced vancomycin for VRE bacteremia. The patient's 
pressures stabilized and pressors were discontinued.  He did not 
have further hypotension after transfer to the oncology floor. 

# MRSA/VRE bacteremia: S/p line removals; Patient completed 15 
day course of linezolid.  Also added Meropenem on ___ given MS 
decline and asterixis.  Antibiotics were d/c'd on ___ and 
patient has been stable, afebrile without leukocytosis since.  
Repeat blood and urine cultures have been negative.

# partial/early SBO: On ___ patient developed worsening 
abdominal distention and confusion.  This early SBO was likely 
due to narcotics though concerning that is ongoing and limiting 
nutrition. MRI head with improved findings. An NGT was placed 
for 24 hours and the patient's MS cleared as did his SBO.  There 
was initially some concern for messenteric ischemia given ___ 
positive stool, known necrotic fingers and subsequent CT abd 
findings, so GI and surgery were consulted.  Patient however 
soon improved clinically so further work-up with colonoscopy was 
not done.  He was able to tolerate a regular diet for 48H prior 
to discharge. A PICC had been placed for access and for ability 
to start TPN if needed, however TPN was never started. 

# Anemia: likely multifactorial due to poor nutrition, acute 
nutrition, and marrow suppression.  Patient is also FOB+ s/p 2U 
PRBC since ___. then another 1U ___.  He was continued on iron, 
folate and B12 on ___.  Mr. ___ did have ___ positive 
stools during admission which should be followed-up  by 
gastroenterology as an outpatient.

# gangrene: ___ pressors, shock as below.  Patient was treated 
with wound care and transitioned to a fentanyl patch with 
breakthrough morphine for pain.

# thrombocytopenia: Resolved. Likely due to myelosuppression.

# coagulopathy: Patient was supplemented with vitamin K X3 days 
to decrease his INR.  

#  Respiratory failure- Patient was intubated electively ___ 
setting of persistent hypervolemia and renal failure.  
Maintained on minimal ventilatory support during dialysis.  
Patient received antibiotic coverage for aspiration pneumonia. 
The patient was extubated on ___ and continued to improve 
significantly. The patient was called out to the OMED floor team 
for further managment. 
 
#. ARF: ___ mediated ARF most likely, however prerenal or 
postrenal etiology also possible.  K wnl, phos elevated though 
stable from last draw.  Patient likely had ___ induced renal 
injury, with possible ischemic acute tubular necrosis.  Despite 
aggressive fluids, renal function did not improve.  Patient was 
showing signs of uremia and hypervolemia, and continuous 
___ hemodialysis was started following intubation and 
placement of HD line.  On the last days of admission he did not 
require diuresis and continued to auto-diurese with a creatinine 
of 1.1-1.3. He was not continued on his anti-hypertensives as 
his SBPs were 130-140. Mr. ___ should have his renal function 
checked as an outpatient ___ the next ___ weeks. If there are 
concerns with worsening kidney function as an oupatient, he 
should be followed by renal.  

#  Atrial fibrillation with rapid ventricular response- Occurred 
on morning of ___.  Became more hypotensive, received two 
attempts at DC cardioversion, transient sinus rhythm restored, 
then converted back into a. fib.  Amiodarone load and drip was 
started.  Converted to sinus rhythm day later, maintained on 
amio drip.  Cardiac enzymes were flat, lower extremity 
ultrasound negative for DVT.  Repeat TTE showed no right heart 
strain. The amiodarone drip was discontinued and the patient 
remained ___ normal sinus rhythm.
   
#. HA/MS changes: Known metastatic disease to brain and ___ can 
cause swelling.  He is AOx3, though slightly agitated.  Clinical 
picture not c/w meningitis/encephalitis and most likely 
toxic-metabolic.  CT head showed slight improvement ___ 
metastatic disease, less vasogenic edema.  Lumbar puncture was 
deferred given intracranial mass. As patient stayed on the 
oncology floor his mental status gradually returned to normal.  
He can have a formal neurocognitive outpatient work-up if deemed 
necessary by his PCP.

# skin/eye/mucous membrane breakdown: Patient developed 
significant skin breakdown, particularly on his fingertips 
likely due to pressors and ___.  He was evaluated by plastic 
surgery and hand x-ray found no need for intervention.  He was 
continued on: nystatin, miconazole, benadryl, sarna, Hydrocerin, 
HydrOXYzine, eye drops, Gelclair.

#. RCC: finished week 2 of ___. Maintained contact with 
outpatient oncologist.

CODE STATUS: Full (confirmed) 
 
Medications on Admission:
MEDICATIONS upon transfer:
Hydrocerin 1 Appl TP QID:PRN dry skin  
50 mEq Sodium Bicarbonate/1000 ml ___ NS Continuous at 75 
ml/hr
HydrOXYzine ___ mg PO/NG Q6H:PRN pruritis  
Lorazepam 0.5-1 mg PO/IV Q4H:PRN 
Acetaminophen 975 mg PO Q6H prn  
Meperidine ___ mg IV Q2H:PRN Rigors 
Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN 
Morphine Sulfate ___ mg IV Q2H:PRN pain  
Ciprofloxacin HCl 250 mg PO/NG Q24H  
Pantoprazole 40 mg PO Q24H  
DOPamine 4 mcg/kg/min IV DRIP 
Phenylephrine 1 mcg/kg/min IV DRIP 
DiphenhydrAMINE ___ mg PO/IV Q6H:PRN pruritis  
Diphenoxylate-Atropine ___ TAB PO PRN after each loose stool 
Prochlorperazine 10 mg PO/IV Q6H:PRN nausea/vomiting  
Erythromycin *NF* 5 mg/g ___ TID 
Sarna Lotion 1 Appl TP QID:PRN pruritus  
Gabapentin 100 mg PO/NG TID pruritus  
Gelclair 15 mL ORAL TID:PRN mucositis  
*Stopped* Aldesleukin 47.4 Million Units IV Q8H on Days 1, 2, 3, 
4 and 5.  
. 
Home Medications:
lipitor 20mg
diltiazem 240mg bid
folate 1mg qday
protonix 40mg qday
triamterene/hydrochlorothiazide 75/50mg qday
valsartan 320mg qday
vit C 1g qday
citrucel 1g bid
cyanocobalamin 1g sc monthly
 
Discharge Medications:
1. Lipitor 20 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Cyanocobalamin 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month: next due ___.  
5. Vitamin C 1,000 mg Tablet Sig: One (1) Tablet PO once a day.  

6. Diphenhydramine HCl 25 mg Capsule Sig: ___ Capsules PO Q6H 
(every 6 hours) as needed for pruritis.
Disp:*60 Capsule(s)* Refills:*0*
7. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for nausea/vomiting, insomnia or anxiety.
Disp:*30 Tablet(s)* Refills:*0*
8. White Petrolatum-Mineral Oil     Cream Sig: One (1) Appl 
Topical QID (4 times a day) as needed for dry skin.
Disp:*QS 1 month* Refills:*0*
9. Oral Wound Care Products     Gel ___ Packet Sig: Fifteen (15) 
ML Mucous membrane TID (3 times a day) as needed for mucositis.
Disp:*QS 1 month* Refills:*0*
10. Hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pruritis.
Disp:*60 Tablet(s)* Refills:*0*
11. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for pruritus.
Disp:*QS 1 month* Refills:*2*
12. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain: do note take more than 4 grams per 
day.
Disp:*120 Tablet(s)* Refills:*0*
13. Ferrous Gluconate 325 mg (37.5 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
14. Fentanyl 25 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours): remove previous  patch before 
applying. Do not drive while using this.
Disp:*20 Patch 72 hr(s)* Refills:*0*
15. Morphine 15 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
16. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
17. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
18. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1) 
pkt PO DAILY (Daily) as needed for constipation.
Disp:*60 pkt* Refills:*2*
19. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
20. ZOFRAN ODT 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Metastatic RCCA - s/p C1W2 HD ___ therapy

Secondary:
VRE/MRSA sepsis
acute renal failure, resolved
SBO, resolved
peripheral necrosis of digits
acute mental status changes, resolved

 
Discharge Condition:
Alert, oriented, ambulatory

 
Discharge Instructions:
You were admitted to ___ for 
___ therapy for your Renal Cell Carcinoma.  While you were here 
you had a very complicated hospital course.  

-You developed bacteria ___ your blood and you were treated with 
antibiotics for MRSA and VRE. You have finished your courses of 
antibiotics and your blood cultures have been normal.
-You had a UTI with e-coli and you were treated with 
antibiotics. Your urine cultures have since been normal.
-You needed dialysis.  Your kidney function has since improved 
and your creatinine was 1.2 at discharge.  This should be 
monitored closely and you should see a renal doctor if it 
worsens.
-You were ___ the intensive care unit and you were intubated for 
confusion.  This improved. You should ask Dr. ___ 
neurocognitive evaluation is needed.
-You had necrosis (damage) to your fingertips from some of the 
medications ___ the ICU.  Plastic surgery saw you and your finger 
tips started to improve.
-You also had skin damage to your sacrum (above your buttocks) 
from the ___.  The ___ services should help you change these 
dressings.

While you were here some of your medications were changed.

You should CONTINUE taking:
lipitor 20mg  
folate 1mg qday  
protonix 40mg qday  
vit C 1g qday  
cyanocobalamin 1g sc monthly  (you received this on ___

You should STOP taking:
citrucel 1g bid 
diltiazem 240mg bid  
triamterene/hydrochlorothiazide 75/50mg qday  
valsartan 320mg qday  

You should START taking:
Benadryl, hydroxyzine, camphor-methol, petrolatum-mineral oil as 
needed for itching
Lorazepam as needed for nausea, vomiting or anxiety (do not 
drive or drink alcohol while taking this)
oral care and wound care products 
tylenol as needed for pain
ferrous gluconate twice a day
fentanyl patch every 72 hours (do not drive or drink alcohol 
while taking this)
morphine as needed for pain (do not drive or drink alcohol while 
taking this)

You should take senna and colace every day to prevent 
constipation and take miralax and bisacodyl if you become 
constipated.

Notify ___, RN, at ___ for fever, chills, 
shortness of breath, or inability to take oral fluids
 
Followup Instructions:
___